US06949542B2
{4-Fluoro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-fluoro-phenyl)-carbamic acid tert-butyl ester (Example J2) (170 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as an off-white solid (251 mg).

reactant | (2-amino-4-fluoro-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 170 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)N)=O | C11H15FN2O2
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
product | {4-Fluoro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)F)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C25H24FN3O4
